US05620997
2-[2-[2-(1-Carboxy-2-methylpropylcarbamoyl) phenyldisulfanyl]benzoylamino]-3-methylbutanoic acid
Using the method employed in Preparation 30, 17.8 g (0.15 mol) of D,L valine was reacted with 17.2 g (0.05 mol) of 2,2'-dithiobisbenzoyl chloride to produce 11.4 g of the title compound after recrystallization from acetic acid, mp 226.5°-227.5° C.

reactant | valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | 2,2'-dithiobisbenzoyl chloride | 0.05 mol, 17.2 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
product | 2-[2-[2-(1-Carboxy-2-methylpropylcarbamoyl) phenyldisulfanyl]benzoylamino]-3-methylbutanoic acid | 11.4 g | C(=O)(O)C(C(C)C)NC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)NC(C(=O)O)C(C)C)C=CC=C1 | C24H28N2O6S2
